* C:\Users\Rohan\Desktop\aic\AIC_project\rohan\two stage\small signal\small  signal.asc
M4 N003 N003 0 0 n18.9 l=5u w=25u ad={5*W*LAMBDA} as={5*W*LAMBDA} pd={10*LAMBDA+2*W} ps={10*LAMBDA+2*W}
Vdd VDD 0 1.8
M10 a b VDD VDD p18.6 l=1.2u w=1.2u ad={5*W*LAMBDA} as={5*W*LAMBDA} pd={10*LAMBDA+2*W} ps={10*LAMBDA+2*W}
M9 b b VDD VDD p18.6 l=1.2u w=1.2u ad={5*W*LAMBDA} as={5*W*LAMBDA} pd={10*LAMBDA+2*W} ps={10*LAMBDA+2*W}
M3 N002 N002 0 0 n18.9 l=5u w=25u ad={5*W*LAMBDA} as={5*W*LAMBDA} pd={10*LAMBDA+2*W} ps={10*LAMBDA+2*W}
M1 N002 in_n a a p18.7 l=180n w=20u ad={5*W*LAMBDA} as={5*W*LAMBDA} pd={10*LAMBDA+2*W} ps={10*LAMBDA+2*W}
M2 N003 in_p a a p18.7 l=180n w=20u ad={5*W*LAMBDA} as={5*W*LAMBDA} pd={10*LAMBDA+2*W} ps={10*LAMBDA+2*W}
M8 d c VDD VDD p18.9 l=10u w=2u ad={5*W*LAMBDA} as={5*W*LAMBDA} pd={10*LAMBDA+2*W} ps={10*LAMBDA+2*W}
M7 c c VDD VDD p18.9 l=10u w=2u ad={5*W*LAMBDA} as={5*W*LAMBDA} pd={10*LAMBDA+2*W} ps={10*LAMBDA+2*W}
M5 c N002 0 0 n18.9 l=5u w=25u ad={5*W*LAMBDA} as={5*W*LAMBDA} pd={10*LAMBDA+2*W} ps={10*LAMBDA+2*W}
M6 f N003 0 0 n18.9 l=5u w=25u ad={5*W*LAMBDA} as={5*W*LAMBDA} pd={10*LAMBDA+2*W} ps={10*LAMBDA+2*W}
Ibias b 0 6µ
M11 out N001 d d p18.8 l=0.9u w=90u ad={5*W*LAMBDA} as={5*W*LAMBDA} pd={10*LAMBDA+2*W} ps={10*LAMBDA+2*W}
M12 out P001 f f n18.9 l=5u w=20u ad={5*W*LAMBDA} as={5*W*LAMBDA} pd={10*LAMBDA+2*W} ps={10*LAMBDA+2*W}
Cl out 0 1p
V1 in_p 0 SINE(0.01 25m 1k) AC 1
V2 N001 0 0.5
V3 P001 0 1.45
V4 in_n 0 SINE(0.01 -25m 1k) AC 1 180
.model NMOS NMOS
.model PMOS PMOS
.lib C:\Users\Rohan\Documents\LTspiceXVII\lib\cmp\standard.mos
.lib 'ts18sl_scl.lib' tt_18
.param L = 1u W=10u n = 1 LAMBDA = 0.09u
;op
.ac dec 1000 1 10G
;dc V2 -1 1 1000
;noise V(out) v1 dec 1000 1 12K
.backanno
.end
